* harness-corner-smoke -- harness acceptance testbench (issue #8), NOT a
* comparator circuit and NOT a spec claim.
*
* Ported from 2AMLogic/sky130-sar-adc's
* sim/harness-corner-smoke/testbench/harness_corner_smoke.spice (commit
* b80c144efbf467a586f728726cabb25c1eb5a1f2) -- identical PDK (sky130), so
* the fragment carries over unchanged.
*
* Netlist FRAGMENT. sim/harness/testbench.py supplies the title, the
* .lib include (process-corner section), .temp, the .param vdd_val, the
* .control block and .end.
*
* Two independent branches, each probing a different axis of the PVT
* plumbing so a bug on one axis cannot hide behind a pass on another:
*
*   1. ideal resistive divider -> proves vdd_val substitution reaches the
*      netlist. Ratio must be PVT-INVARIANT (the control: if it moves,
*      the harness is perturbing something it should not); absolute
*      value must track the supply.
*   2. diode-connected sky130_fd_pr__nfet_01v8 at a supply-independent
*      10 uA bias -> proves the process-corner .lib section AND .temp
*      both take effect (Vgs at fixed current is a strong, well-known
*      function of both). sim/selftest.sh's --sabotage-corners negative
*      control re-runs this fragment with the .lib section forced to 'tt'
*      and requires the process-axis floor below to fail.
*
* Device sizing (w=4u, l=0.5u) is arbitrary -- chosen only to keep Vgs
* comfortably away from both the subthreshold and deep-triode extremes
* across the full -40..125 C / tt..ff..ss range, verified empirically
* (see sim/harness-corner-smoke/records/ once a record exists).
Vdd vdd 0 dc {vdd_val}

Rtop vdd ndiv 100k
Rbot ndiv 0   100k

Ibias vdd nbias dc 10u
XM1 nbias nbias 0 0 sky130_fd_pr__nfet_01v8 l=0.5 w=4 nf=1
